US07939539B2
3-Benzyl-7-chloro-2-methylquinazolin-4 (3H)-one (2 g, 1 eq.) was dissolved in tetrahydrofuran (20 ml). The solution was cooled to −78° C. for 15 minutes. Lithium hexamethyl disilazide (LHMDS) was added slowly and the mixture was stirred at −78° C. for 45 minutes. Dimethylcarbamyl chloride was added and the mixture was stirred at −78° C. for 1 h. The reaction was allowed to warm to room temperature and stirred for 3 h. The solvent was evaporated and the resulting solid was dissolved in ethyl acetate. The ethyl acetate layer was washed with water, saturated sodium bicarbonate, saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated. The crude product was purified by flash chromatography to give 2-(3-benzyl-7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-N,N-dimethylacetamide (1.2 g) as a solid.

reactant | 3-Benzyl-7-chloro-2-methylquinazolin-4 (3H)-one | 2 g, 1 eq. | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C | C16H13ClN2O
reactant | Lithium hexamethyl disilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(3-benzyl-7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-N,N-dimethylacetamide | 1.2 g | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)CC(=O)N(C)C | C19H18ClN3O2
